US05550134
(4aR)-(10bR)-4,10b-dimethyl-8-(2-[4-isoquinolinyl]ethenyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 508 mg portion of (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one, 4 mg of palladium acetate, 20 mg of tri-o-tolylphosphine, 0.34 mL of triethylamine and 5 mL of dimethylformamide were combined in a sealable tube with a stir bar, and the mixture was warmed to 50 under argon. An 0.26 g portion of 4-ethenylisoquinoline was added. Then the vessel was blanketed with argon and sealed and the mixture was heated with stirring at 120° for 20 hours. It was then cooled, and concentrated under vacuum and the residue was purified by chromatography on silica gel, eluting with 5% isopropanol in chloroform. An 0.29 g portion of an oil was obtained, which was recrystallized from ethyl acetate/hexane to obtain the desired product in crystalline form. mp 183°-185°; FDMS 382 M+.

reactant | (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | tri-o-tolylphosphine | 20 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | 4-ethenylisoquinoline | C(=C)C1=CN=CC2=CC=CC=C12 | C11H9N
catalyst | palladium acetate | 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4aR)-(10bR)-4,10b-dimethyl-8-(2-[4-isoquinolinyl]ethenyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=CC3=CN=CC1=CC=CC=C31)C)=O | C26H26N2O
